US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-2-{1-[(2-methylpropyl)sulfonyl]pyrrolidin-3-yl}-1,3-thiazole-5-carboxamide
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-2-(pyrrolidin-3-yl)thiazole-5-carboxamide, 2.7-trifluoroacetic acid (150 mg, 0.236 mmol) was dissolved in N,N-dimethylformamide (0.7 mL). Triethylamine (0.3 mL, 2.152 mmol) was added, followed by 2-methylpropane-1-sulfonyl chloride (74.0 mg, 0.472 mmol) and the reaction was stirred overnight at room temperature. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic extracts were dried with sodium sulfate, filtered, and concentrated and purified by normal phase chromatography to give the title compound. 1H NMR (300 MHz, DMSO-d6) ppm 9.24 (t, J=5.9 Hz, 1H), 8.49 (d, J=7.0 Hz, 1H), 8.35 (s, 1H), 7.89 (s, 1H), 7.52 (d, J=1.2 Hz, 1H), 7.41 (s, 1H), 6.83 (dd, J=7.0, 1.7 Hz, 1H), 4.48 (d, J=5.9 Hz, 2H), 3.91 (p, J=7.2 Hz, 1H), 3.74 (dd, J=9.8, 7.3 Hz, 1H), 3.51-3.35 (m, 3H), 2.99 (d, J=6.6 Hz, 2H), 2.46-2.33 (m, 1H), 2.24-2.03 (m, 2H), 1.03 (d, J=6.7 Hz, 6H); MS (ESI(+)) m/e 448 (M+H)+.

reactant | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-2-(pyrrolidin-3-yl)thiazole-5-carboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)C2=CN=C(S2)C2CNCC2 | C16H17N5OS
reactant | Triethylamine | 2.152 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | 2-methylpropane-1-sulfonyl chloride | 0.472 mmol, 74.0 mg | CC(CS(=O)(=O)Cl)C | C4H9ClO2S
solvent | N,N-dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-2-{1-[(2-methylpropyl)sulfonyl]pyrrolidin-3-yl}-1,3-thiazole-5-carboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)C2=CN=C(S2)C2CN(CC2)S(=O)(=O)CC(C)C | C20H25N5O3S2
